Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
acute on chronic worsening of her gait
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
Ms. ___ is a ___ old left-handed woman with a history 
of
breast cancer, GERD and Sjogren's syndrome who presents with
acute on chronic worsening of her gait. 

Patient reports that she has had balance issues for the past 6
months to ___ year.  She notes that she has had at least 10 trips
and falls in the past 6 months.  For the most part, these are 
not
mechanical.  She recalls one fall when coming around the corner
of her bed and brushing against the comforter, causing her to
fall into a table and getting a hairline fracture of her wrist. 
She recalls another fall 3 weeks ago when she was walking in a
___ park on pavement and level ground for which she fell on 
her
left side hitting her cheek and shoulder.  She had a resultant
black eye.  There was no loss of consciousness.  She did not
remember tripping over anything and she does not know how she
felt the time.  A couple of weeks ago, she was walking with her
family and her sister noticed that she was staggering when she
was walking.  Her sister also noticed that she has been bumping
into walls at home.  Additionally, she frequently has to hold
onto something in the shower when she called with her eyes for
fear of falling and unsteadiness.

More recently, within the past week the symptoms have
significantly worsened.  There is been no abrupt change just a
gradual worsening of her symptoms, specifically within the last
week.  Last ___, she noticed that she was veering to the left
whenever she was walking.  Specifically, when walking the dog,
she had to keep righting herself to stay in a straight line.  
She
went to her primary care physician on ___ complaining of new
bilateral ear fullness, but no hearing loss or tinnitus.  She
also reported a sensation of "fuzzy tongue."  When speaking with
her PCP, she noted that she has a history of frequent sinus
infections and whenever she gets these infections, she feels 
like
"my head is swirling."  She describes a sensation of head
movements without room spinning.  Because this was thought to be
contributing to her symptoms of unsteadiness, she was started on
Augmentin.  She did not have any symptoms of sinusitis and has
been taking on antibiotics since.  She was also noted to have
cerumen impaction of the left ear with a normal tympanic
membrane. 

The plan was to refer her to neurology for outpatient 
evaluation.
However, patient did not improve over the course of the week and
she called her PCP back who recommended she presented to urgent
care clinic.  At the clinic, she was referred to the emergency
room for neurologic evaluation. 

Currently, patient denies any feelings of dizziness but she
reports that she has had this swirling feeling in her head
intermittently throughout the week.  The last time she had this
feeling was about ___ years ago when she had sinus surgery but has
not had any episodes since then.  She will get the feeling
lasting a few minutes and then it will go away.

The main new symptom is the profound gait difficulty.  Today, 
she
had to have her sister walk with her by holding her arm so that
she would not fall.  Interestingly, she also relates a story of
driving in the car where the car drifted off into the left leg
and over the curb without her realizing it.

No new medications aside from increasing pilocarpine recently. 
She has been more fatigued than usual but otherwise review of
systems as below.

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. 

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
GERD
Chronic fatigue
Stage III breast cancer status post left sided lumpectomy,
chemotherapy and radiation, diagnosed ___, considered in
remission
History of peripheral neuropathy after chemotherapy
Anxiety
Chronic sinusitis
Sjogren's disease
Actinic keratosis

 
Social History:
___
Family History:
Family Hx: Mother with atrial fibrillation and strokes
 
Physical Exam:
Physical Exam:
Vitals: T: 97.5 P: 109  R: 16  BP: 143/87  SaO2: 100% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, dry MM, no lesions noted
in oropharynx
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3, though initially said it 
was
___ and corrected herself to ___. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 3mm and brisk. EOMI with left
beating nystagmus which extinguishes. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   ___    5   5     5      5   
R  5    ___   ___    5   5     5      5   

-Sensory: Impaired pinprick and cold from the fingers to the
elbows and the toes to the knees bilaterally.  Proprioception is
intact to small movements of the toes.  She has decreased
vibration at the big toe, 3 seconds the left and 8 seconds at 
the
right. No extinction to DSS. Romberg with slight sway

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    3   2
R  2  2    2    3   2
Plantar response was flexor bilaterally.

-Coordination: Mild intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally. Mirroring
intact bilaterally. Increased rebound bilaterally. No truncal
ataxia. 

-Gait: Good initiation. Wide-based, can walk in a straight line
but occasionally pulses forward. She is very hesitant. Multiple
steps to turn. 

 
Pertinent Results:
___ 05:00AM BLOOD WBC-6.0 RBC-4.38 Hgb-12.9 Hct-38.7 MCV-88 
MCH-29.5 MCHC-33.3 RDW-12.3 RDWSD-39.2 Plt ___
___ 03:58PM BLOOD Neuts-71.4* Lymphs-13.5* Monos-11.8 
Eos-2.7 Baso-0.3 Im ___ AbsNeut-5.05 AbsLymp-0.95* 
AbsMono-0.83* AbsEos-0.19 AbsBaso-0.02
___ 05:00AM BLOOD Plt ___
___ 05:00AM BLOOD ___ PTT-29.7 ___
___ 02:55PM BLOOD Glucose-147* UreaN-14 Creat-0.6 Na-138 
K-4.5 Cl-101 HCO3-23 AnGap-14
___ 03:58PM BLOOD ALT-19 AST-24 AlkPhos-94 TotBili-<0.2
___ 03:58PM BLOOD cTropnT-<0.01
___ 02:55PM BLOOD Calcium-9.3 Phos-3.3 Mg-1.8
___ 05:00AM BLOOD TSH-5.5*
 
Brief Hospital Course:
___ year old woman with history of stage III breast cancer s/p 
chemo in remission, Sjogren's disease, who presents with acute 
on chronic imbalance and falls.
She was found to have an acute vestibulopathy on examination 
likely representing a vestibular neuronitis given that she also 
had signs of sinusitis on MRI brain, which did now show acute 
stroke or mass. She was continued on her antibiotic regimen for 
sinusitis, which was extended per ENT recommendations from 10 to 
14 days. She worked with physical therapy, who deemed her to be 
stable for discharge with outpatient physical therapy. 

Peripheral neuropathy to be followed up in ___ clinic. 
Sjogren's disease should be addressed with Rheumatology 
followup. Her augmentin course was extended to 14 days. Patient 
can see ENT if symptoms do not improve.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amphetamine-Dextroamphetamine XR 15 mg PO DAILY 
2. Amphetamine-Dextroamphetamine 5 mg PO DAILY PRN fatigue at 
noon 
3. Esomeprazole 40 mg Other DAILY 
4. pilocarpine HCl 5 mg oral 5 x daily 
5. Tretinoin 0.1% Cream 1 Appl TP QHS 
6. Venlafaxine XR 150 mg PO DAILY 
7. FiberCon (calcium polycarbophil) 625 mg oral DAILY 
8. Loratadine 10 mg PO DAILY 
9. Augmentin (amoxicillin-pot clavulanate) 875-125 mg oral BID 
sinusitis 

 
Discharge Medications:
1.  Oxymetazoline 1 SPRY NU BID Duration: 2 Days 
RX *oxymetazoline [12 Hour Nasal Spray] 0.05 % 1 spray twice 
daily Disp #*1 Package Refills:*2 
2.  Sinus Wash (sodium bicarb-sodium chloride) 700-2,300 mg 
nasal DAILY 
RX *sodium bicarb-sodium chloride [Sinus Wash] 2,300 mg-700 mg 1 
wash daily Disp #*7 Packet Refills:*2 
3.  Amoxicillin-Clavulanic Acid (amoxicillin-pot clavulanate) 
875-125 mg oral BID sinusitis Duration: 4 Days 
in addition to current 10 day course - to extend to total of 14 
day course 
RX *amoxicillin-pot clavulanate [Augmentin] 875 mg-125 mg 1 
tablet(s) by mouth twice daily Disp #*8 Tablet Refills:*0 
4.  Amphetamine-Dextroamphetamine XR 15 mg PO DAILY  
5.  Amphetamine-Dextroamphetamine 5 mg PO DAILY PRN fatigue at 
noon  
6.  Esomeprazole 40 mg Other DAILY  
7.  FiberCon (calcium polycarbophil) 625 mg oral DAILY  
8.  Loratadine 10 mg PO DAILY  
9.  pilocarpine HCl 5 mg oral 5 x daily  
10.  Tretinoin 0.1% Cream 1 Appl TP QHS  
11.  Venlafaxine XR 150 mg PO DAILY  
12.Outpatient Physical Therapy
Vestibular/gait therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gait imbalance and falls
Vestibular neuronitis
Peripheral neuropathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were admitted because of gait issues and falling. On 
examination, we found evidence of dysfunction of your inner ear, 
which causes imbalance, which is likely a result of infection in 
your ear. We performed an MRI that did not show any masses or 
strokes in your brain, but did show mucous plugging in your 
sinuses. We had our physical therapists see ___ who recommended 
outpatient physical therapy. ___ should continue your augmentin 
and actually extend the course to 14 days. We also recommend 
using nasal decongestant spray for symptomatic relief.
 
With your gait improved, ___ were stable for discharge home 
___. We recommend that ___ follow up with your primary care 
physician ___ ___ weeks. We also recommend that ___ follow up 
with neurology in a few months because ___ also signs of 
peripheral neuropathy, which may be from your Sjogren's disease. 
We also recommend that ___ see a rheumatologist for your 
relatively recent diagnosis of Sjrogren's disease. 

It was a pleasure taking care of ___ and we wish ___ the best!
Sincerely, 
Your ___ Neurology Team 
 
Followup Instructions:
___